US06417393B1
2-methylsulfonamidocarbonylaniline
Lithium methanesulfonamidate (1.0 g, 10 mmol) and isatoic anhydride (1.63 g, (10 mmol) in dimethyl sulfoxide (5 mL) were heated at 80° C. for 30 min. The reaction was cooled down to room temperature and acidified with hydrogen chloride in diethyl ether. The ether was evaporated and water added. The precipitated oil was purified by column chromatography on silica gel eluting with ethyl acetate/methanol (95:5). The desired material was obtained in a yield of 0.52 g.

reactant | Lithium methanesulfonamidate | 10 mmol, 1.0 g | CS(=O)(=O)N.[Li]
reactant | isatoic anhydride | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | hydrogen chloride | Cl | ClH
solvent | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-methylsulfonamidocarbonylaniline | CS(=O)(=O)NC(=O)C1=C(N)C=CC=C1 | C8H10N2O3S
